US08629137B2
1-{1-[6-(7-methyl-2,3-dihydro-benzofuran-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-di-hydro-imidazo[4,5-b]pyridin-2-one-formate
0.11 g (0.36 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride, 90 mg (0.23 mmol) (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone and 0.20 mL (1.16 mmol) DIPEA were combined in 1.5 mL DMF and stirred for 48 h at RT. Then the reaction mixture was mixed with a few drops of hydrochloric acid and purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride | 0.36 mmol, 0.11 g | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | (6-chloro-pyrimidin-4-yl)-(7-methyl-2,3-dihydro-benzofuran-5-yl)-methanone | 0.23 mmol, 90 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C(C2=C(CCO2)C1)C | C14H11ClN2O2
reactant | DIPEA | 1.16 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | hydrochloric acid | a few drops | Cl | ClH
product | 1-{1-[6-(7-methyl-2,3-dihydro-benzofuran-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-di-hydro-imidazo[4,5-b]pyridin-2-one formate | CC1=CC(=CC=2CCOC21)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O.C(=O)[O-] | InChI=1S/C25H24N6O3.CH2O2/c1-15-11-17(12-16-6-10-34-23(15)16)22(32)19-13-21(28-14-27-19)30-8-4-18(5-9-30)31-20-3-2-7-26-24(20)29-25(31)33;2-1-3/h2-3,7,11-14,18H,4-6,8-10H2,1H3,(H,26,29,33);1H,(H,2,3)/p-1
